US09278968B2
To a solution of 60 mg of N-(1-{[tert-butyl (diphenyl)silyl]oxy}-2-cyanopropan-2-yl)-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxamide in 2 ml of DMF were added 70 mg of sodium azide and 60 mg of ammonium chloride, followed by stirring at 120° C. for 4 hours. The reaction mixture was left to be cooled to room temperature and water was then added thereto, followed by extraction with chloroform. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate, and the solvent was then evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography. To the obtained crude product was added ethyl acetate, and the insoluble materials were collected by filtration and dried under reduced pressure to obtain 19 mg of 8-[(2,6-difluorobenzyl)oxy]-N-[1-hydroxy-2-(2H-tetrazol-5-yl)propan-2-yl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide.

reactant | N-(1-{[tert-butyl (diphenyl)silyl]oxy}-2-cyanopropan-2-yl)-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxamide | 60 mg | C(C)(C)(C)[Si](OCC(C)(C#N)NC(=O)C1=C(N=C2N1C=CC=C2OCC2=C(C=CC=C2F)F)C)(C2=CC=CC=C2)C2=CC=CC=C2 | C36H36F2N4O3Si
reactant | sodium azide | 70 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 60 mg | [Cl-].[NH4+]
reactant | water | O | H2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-[(2,6-difluorobenzyl)oxy]-N-[1-hydroxy-2-(2H-tetrazol-5-yl)propan-2-yl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide | 19 mg | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)NC(CO)(C)C=3N=NNN3)C(=CC=C1)F | C20H19F2N7O3
